US07534894B2
1-methyl-1H-indole-3-carbonyl chloride (16.3 mmol), prepared in the previous step, in 50 mL of methylene chloride was added under nitrogen dropwise to a solution of N-[(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methyl]-N-methylamine (5.00 g, 16.3 mmol), prepared in step 5 of Example 6, and triethylamine (2.3 mL, 16.3 mmol) in 200 mL of methylene chloride at room temperature. After the addition the reaction was stirred at room temperature for 20 h. The reaction was extracted with 1 N HCl, dried (MgSO4) and the solvent removed under reduced pressure to give N-[(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methyl]-N,1-dimethyl-1H-indole-3-carboxamide (7.4 g, 98%) as a white solid foam, MS (ESI) m/z 463 [M+H]+. Elemental Analysis for C25H23BrN2O2. Calc'd: C, 64.80; H, 5.00; N, 6.05 Found: C, 62.88; H, 4.92; N, 5.61

reactant | 1-methyl-1H-indole-3-carbonyl chloride | 16.3 mmol | CN1C=C(C2=CC=CC=C12)C(=O)Cl | C10H8ClNO
reactant | N-[(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methyl]-N-methylamine | 16.3 mmol, 5.00 g | BrC=1C=C(C=CC1OC)C1=CC=C(C=C1)CNC | C15H16BrNO
reactant | triethylamine | 16.3 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | N-[(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methyl]-N,1-dimethyl-1H-indole-3-carboxamide | 7.4 g, 98% | BrC=1C=C(C=CC1OC)C1=CC=C(C=C1)CN(C(=O)C1=CN(C2=CC=CC=C12)C)C | C25H23BrN2O2
